US04098815
3-[3,3-Dimethyl-8[-3-pentyl-3-tetrahydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro[5,4]-dec-7-yl]-propionaldehyde
1.05 g (2.05 mmoles of 1-[7-[(1,3-dithia-2-cyclopentyl)ethyl]3,3-dimethyl-1,5-dioxaspiro[5,4]-dec-8-yl]-trans-1-octene-3-ol-tetrahydropyranyl ether was stirred for 2 hours at 50° C in 100 ml of DMF with 0.7 ml (10.3 mmoles) of methyl iodide, 1.4 g (14 moles) of CaCO3 and 0.4 ml of H2O. The solution was cooled, combined with 50 ml of acetone, filtered with suction to remove the precipitate and the filtrate was evaporated to dryness at 0.1 mm Hg. The residue was dissolved in ether, washed with H2O, dried over MgSO4 and the solvent was removed by distillation under reduced pressure. The oily residue which was not further purified showed in the infrared spectrum a strong carbonyl band at 1730 cm-1.

reactant | 1-[7-[(1,3-dithia-2-cyclopentyl)ethyl]3,3-dimethyl-1,5-dioxaspiro[5,4]-dec-8-yl]-trans-1-octene-3-ol tetrahydropyranyl ether | 2.05 mmoles | S1C(SCC1)CCC1C2(OCC(CO2)(C)C)CCC1\C=C\C(CCCCC)O.O1C(CCCC1)OC1OCCCC1
reactant | methyl iodide | 10.3 mmoles, 0.7 ml | CI | CH3I
reactant | CaCO3 | 14 moles, 1.4 g | C(=O)([O-])[O-].[Ca+2]
reactant | H2O | 0.4 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-[3,3-Dimethyl-8[-3-pentyl-3-tetrahydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro[5,4]-dec-7-yl]-propionaldehyde | CC1(COC2(OC1)C(C(CC2)\C=C\C(OC2OCCCC2)CCCCC)CCC=O)C | C26H44O5
